US03950407
A solution of trans-12-carboethoxy-11-carboxy-9,10-dihydro-9,10-ethanoanthracene prepared as set forth in Example 1 (19.3 g., 60 mmoles) in 11 ml. of water and 100 ml. of acetone is cooled to 0° C. Ethyl chloroformate (8.6 g., 79 mmoles) in 30 ml. of acetone is added dropwise at 0° C., then the mixture is stirred at 0° C. for about thirty minutes. Sodium azide (6.2 g., 94 mmoles) in 20 ml. of water is added at 0° C., and the mixture is stirred at 0° C. for 1 hour, then poured into 500 ml. of ice water. The product is extracted twice with di-ethyl ether, the ether layers are washed with saturated sodium chloride solution, then dried over anhydrous magnesium sulfate. Evaporation under vacuum gives 19.7 g. of a white solid, trans-11-azido-12-carboethoxy-9,10-dihydro-9,10-ethanoanthracene. The infrared spectral analysis of this compound is in agreement with the assigned structure. The solid azide is dissolved in 75 ml. of dry toluene and heated on a steam bath until the evolution of nitrogen stops. The toluene is removed by evaporation under vaccuum to provide 16.9 g. of a yellow oil. The oil is treated with 17.2 g. of benzyl alcohol, and the mixture is heated on a steam bath for 2 hours. The excess benzyl alcohol is removed by evaporation under vacuum leaving 22.7 g. of a yellow oil, trans-11-(N-carbobenzyloxyamino)-12-carboethoxy-9,10-dihydro-9,10-ethanoanthracene. The oil is dissolved in 100 ml. of ethyl acetate, 5.0 g. of palladium on charcoal are added and the mixture is treated with hydrogen gas at about 45 psi on a Parr apparatus until uptake of hydrogen stops. The mixture is filtered, the filtrate is evapoated under vacuum, and the residue is disolved in diethyl ether. The ether solution is washed with saturated sodium bicarbonate solution and saturated sodium chloride solution, then dried over anhydrous magnesium sulfate to give 20.7 g. of an oil. The oil is dissolved in diethyl ether and extracted with 5 percent hydrochloric acid. The acid extracts are neutralized with sodium bicarbonate. The aqueous solution is extracted with diethyl ether, and the ether layer is dried over magnesium sulfate. The ether is removed by evaporation under vacuum to provide a solid residue which is recrystallized from a benzene-hexane mixture to provide trans-11-amino-12-carboethoxy-9,10-dihydro-9,10-ethanoanthracene, m.p. 118°-121° C.

reactant | trans-12-carboethoxy-11-carboxy-9,10-dihydro-9,10-ethanoanthracene | C(=O)(OCC)C1C([C@H]2C=3C=CC=CC3[C@H]1C1=CC=CC=C21)C(=O)O | C20H18O4
reactant | Ethyl chloroformate | 79 mmoles, 8.6 g | ClC(=O)OCC | C3H5ClO2
reactant | Sodium azide | 94 mmoles, 6.2 g | [N-]=[N+]=[N-].[Na+]
reactant | trans-11-azido-12-carboethoxy-9,10-dihydro-9,10-ethanoanthracene | N(=[N+]=[N-])C1C([C@@H]2C3=CC=CC=C3[C@@H]1C=1C=CC=CC21)C(=O)OCC | C19H17N3O2
reactant | azide | [N-]=[N+]=[N-]
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
reactant | trans-11-(N-carbobenzyloxyamino)-12-carboethoxy-9,10-dihydro-9,10-ethanoanthracene | C(=O)(OCC1=CC=CC=C1)NC1C([C@@H]2C3=CC=CC=C3[C@@H]1C=1C=CC=CC21)C(=O)OCC | C27H25NO4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | [Pd] | Pd
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | trans-11-amino-12-carboethoxy-9,10-dihydro-9,10-ethanoanthracene | NC1C([C@@H]2C3=CC=CC=C3[C@@H]1C=1C=CC=CC21)C(=O)OCC | C19H19NO2
